US05167949
c) 2-Acetoxymethyl-4(3H)-pteridinone
Obtained using the procedure described in Example 1, starting with 5.3 g (0.038 mole) of 3-amino-2-pyrazinecarboxamide, 34.5 g (0.157 mole) of triethyl orthopropoxyacetate and 34.5 ml of acetic anhydride. Refluxing time: 1 hour 45 minutes. Yld: 5.4 g (65%), m.p. 210°-212° C. (ethanol).

reactant | 3-amino-2-pyrazinecarboxamide | 0.038 mole, 5.3 g | NC=1C(=NC=CN1)C(=O)N | C5H6N4O
reactant | acetic anhydride | 34.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | C(C)O | C2H6O
product | 2-Acetoxymethyl-4(3H)-pteridinone | C(C)(=O)OCC1=NC2=NC=CN=C2C(N1)=O | C9H8N4O3
